US06787556B1
5-(4-hydroxyphenyl)tetrazole
A mixture of 4-cyanophenol (4.8 g, 40 mmol), sodium azide (7.8 g, 120 mmol) and triethylamine hydrochloride (8.24 g, 60 mmol) in 1-methyl-2-pyrrolidinone (40 ml) was stirred and heated in an oil bath at 140° C. for five hours. The cooled solution was acidified with 2M hydrochloric acid (200 ml) and extracted with ethyl acetate (3×100 ml). The combined ethyl acetate extracts were washed with water (3×100 ml), dried over anhydrous magnesium sulphate, filtered and evaporated to a fawn solid which was crystallised from 50% v/v ethyl acetate in isohexane to give the title compound (5.1 g.) NMR d (d6-DMSO) 6.95 (2H,d), 7.85 (2H,d), 10.13 (1H,br); MS[MH]+ 163

reactant | 4-cyanophenol | 40 mmol, 4.8 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | sodium azide | 120 mmol, 7.8 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 60 mmol, 8.24 g | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | 2M, 200 ml | Cl | ClH
solvent | 1-methyl-2-pyrrolidinone | 40 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(4-hydroxyphenyl)tetrazole | 5.1 g | OC1=CC=C(C=C1)C1=NN=NN1 | C7H6N4O
